US03962053
The lithium salt of 2-nitropropane (9.9 g.) was dissolved in 200 ml. of hexamethylphosphoramide under nitrogen and ethyl 1-nitrocyclobutanecarboxylate was added. The mixture was stirred for three hours under fluorescent lighting. The mixture was then diluted with 400 ml. of water and extracted three times with 200 ml. portions of ether. The combined ether extracts were washed three times with water, dried over magnesium sulfate, and the ethyl 1-(α-nitroisopropyl)cyclobutanecarboxylate (70 percent yield) was recovered by distillation: b.p. (0.1 mm.), 62° C.

reactant | lithium | [Li] | Li
reactant | 2-nitropropane | 9.9 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | ethyl 1-nitrocyclobutanecarboxylate | [N+](=O)([O-])C1(CCC1)C(=O)OCC | C7H11NO4
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | ethyl 1-(α-nitroisopropyl)cyclobutanecarboxylate | 70 percent yield | [N+](=O)([O-])C(C)(C)C1(CCC1)C(=O)OCC | C10H17NO4
